US08530537B2
(A-1) 159 g of 3,3-bis(4-hydroxyphenyl)-2-benzofuran-1-on, 426.6 g of epichlorohydrin, and 160 g of a 50% alkali aqueous solution are mixed in a 1 L flask and then reacted together at 95° C. for 1 hour to form a bisphenylbenzofuran-type epoxy resin. 215 g of the bisphenylbenzofuran-type epoxy resin is mixed with 450 mg of triethylbenzylammoniumchloride, 100 mg of 2,6-diisobutylphenol, and 72 g of acrylic acid. The mixture is heated and completely dissolved at a temperature ranging from 90 to 120° C., while air is blown therein at a speed of 25 Ml per minute.

reactant | 3,3-bis(4-hydroxyphenyl)-2-benzofuran-1-on | 159 g | OC1=CC=C(C=C1)C1(OC(C2=C1C=CC=C2)=O)C2=CC=C(C=C2)O | C20H14O4
reactant | epichlorohydrin | 426.6 g | C(Cl)C1CO1 | C3H5ClO
product | bisphenylbenzofuran | C1(=CC=CC=C1)C1=C(OC2=C1C=CC=C2)C2=CC=CC=C2 | C20H14O
